US04808581
N,N-Dimethyl-3-(5-methyl-1H-imidazol-4-yl)propanamide dihydrochloride
A solution of (E)-N,N-dimethyl-3-[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-2-propenamide (6.0 g) in ethanol (100 ml) was hydrogenated at room temperature and pressure over 10% palladium oxide on carbon (dry, 2.0 g, pre-reduced in ethanol (25 ml)) for 48 h. The catalyst was filtered off (Hyflo), replaced with fresh palladium oxide (2.0 g) and hydrogenation continued for 72 h. The catalyst was filtered off (Hyflo) and the filtrate evaporated in vacuo to yield a yellow oil. This was dissolved in ethanol (15 ml) and acidified with ethanolic hydrogen chloride (to pH1). Dry ether (500 ml) was added and the resulting precipitate was filtered off to give the title compound (1.72 g) as a white powder, m.p. 142°-144°.

reactant | (E)-N,N-dimethyl-3-[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-2-propenamide | 6.0 g | CN(C(\C=C\C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C28H27N3O
reactant | hydrogen chloride | pH1 | Cl | ClH
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | N,N-Dimethyl-3-(5-methyl-1H-imidazol-4-yl)propanamide dihydrochloride | 1.72 g | Cl.Cl.CN(C(CCC=1N=CNC1C)=O)C | InChI=1S/C9H15N3O.2ClH/c1-7-8(11-6-10-7)4-5-9(13)12(2)3;;/h6H,4-5H2,1-3H3,(H,10,11);2*1H
